*HW4

v1 vdd 0 2.5V
rc vdd c 885.6
re e 0 177

.MODEL testbjt NPN (BF=100 IS=1F)

Q1 c b e testbjt

vin b bias 0
vbias bias 0 0.94

.tf v(c) vin
.op
*.dc v1 0 20 2
*.tran 1u 10m
.end