HW4

vcc cc 0 2.5
r1 cc c 1k
r2 e 0 400


r3 cc b 13k
r4 b 0 12k
cb b 0 10000000000

cin in e 1000
vin in 0 0

Q1 c b e testbjt

.MODEL testbjt NPN (BF=100 IS=.8F)
.op
.tf v(c) vin