*CMOS Ring Oscillator example
  
V1 vdd 0 3V
V2 vss 0 0V

.subckt inv vdd vss in out
 Mp1 vdd in out vdd pch l=0.35u w=20.0u
 Mn1 vss in out vss nch l=0.35u w=10.0u
 Cload out vss 100f
.ends

*5 stage ring
x1 vdd vss 1 2 inv
x2 vdd vss 2 3 inv
x3 vdd vss 3 4 inv
x4 vdd vss 4 5 inv
x5 vdd vss 5 1 inv

.MODEL nch NMOS
.MODEL pch PMOS

.TRAN 10p 4n
.end