*HW3.2b

v1 vdd 0 2V
vtest vdd c 0
vb b 0 0.6v

.MODEL testbjt NPN (BF=150 IS=1F)

Q1 c b e testbjt
vdum e 0 0

.op
.dc v1 0 5 0.01 vb 0.61 0.69 0.02 
.tran 1u 10m
.end